US04782050
1. 1-ethyl-2-methyl-5-fluorobenzimidazole
To 2.92 g of N-ethyl-4-fluorophenylenediamine in 15 ml of ethanol was added 3.49 ml of triethylorthoacetate and the reaction refluxed for 6 hours. The solvent was removed and the residue partitioned between ethyl acetate and water. The organic phase was separated, dried and the solvent removed to give 2.87 g of product as a brown oil.

reactant | N-ethyl-4-fluorophenylenediamine | 2.92 g | C(C)NC1=C(C=C(C=C1)F)N | C8H11FN2
reactant | triethylorthoacetate | 3.49 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-ethyl-2-methyl-5-fluorobenzimidazole | 2.87 g | C(C)N1C(=NC2=C1C=CC(=C2)F)C | C10H11FN2
